Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoglycemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with poorly controlled T2DM c/b
DPN & cataracts who presented to the ED for evaluation of severe
hypoglycemia.

His BG has been as low as 26, and he notes 2 recent prior events
of severe hypoglycemia into the ___ on ___ and ___ with LOC, prompting wife to call EMS. He believes he 
received
glucagon each time. Denies seizures. In the ED he stated that he
felt fine, denied any symptoms. He endorsed decreased appetite
and decreased PO intake over the past few weeks and weight loss
of 20lbs since ozempic dose was increased approx. 2 mo ago. He
has no prior history of DKA, HHS, or severe hypoglycemia prior 
to
these episodes. BGs at home prior to this were in the ___,
lowest in the AM and overnight.

- In the ED, initial vitals were: T 96.4, HR 98, BP 127/65, RR
17, SPO2 96% RA. BG 39

- Exam was notable for: benign exam

- Labs were notable for: BG 44, K 6.2 (4.1 on whole blood K),
bicarb 21, AG 11, WBC 11.3

- Studies were notable for: unremarkable CXR

- The patient was given: dextrose 50% 25 gm x3, ___ at
125mL/hr, allopurinol ___ mg, lisinopril 30 mg

- ___ were consulted and recommended observation and insulin
regimen modification

On arrival to the floor, he reports he feels like his normal
self. He confirms several weeks of decreased PO intake and
appetite. He denies falls or head strike associated with his
syncopal episodes. He is having burning pain in his feet and
upper thighs, which is chronic for him. He denies coughing,
abdominal pain, dysuria.
 
Past Medical History:
T2DM complicated by neuropathy and cataracts
OSA on CPAP
HTN
Gout
 
Social History:
___
Family History:
Father died of throat cancer at age ___
Mother died of heart condition in old age
No family history of diabetes
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 1427 Temp: 98.5 PO BP: 124/86 L Sitting HR: 73
RR: 18 O2 sat: 97% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Obese. Normal bowels sounds, non distended, non-tender
to deep palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Decreased ___ sensation 
in
stocking glove distribution.

DISCHARGE PHYSICAL EXAM:
=======================
___ 0715 Temp: 97.5 PO BP: 110/75 HR: 70 RR: 20 O2 sat: 98%
O2 delivery: cpap 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Obese. Normal bowels sounds, non distended, non-tender
to deep palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Decreased ___ sensation 
in
stocking glove distribution.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:51PM BLOOD WBC-11.3* RBC-5.12 Hgb-15.2 Hct-46.6 
MCV-91 MCH-29.7 MCHC-32.6 RDW-14.1 RDWSD-47.1* Plt ___
___ 05:45PM BLOOD Glucose-44* UreaN-20 Creat-1.2 Na-139 
K-6.2* Cl-107 HCO3-21* AnGap-11
___ 05:45PM BLOOD Calcium-9.4 Phos-3.7 Mg-1.9

MICRO:
=======
___ URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING:
========
CXR
No focal consolidation to suggest pneumonia.

DISCHARGE LABS:
===============
___ 05:50AM BLOOD WBC-7.2 RBC-5.08 Hgb-15.0 Hct-47.0 MCV-93 
MCH-29.5 MCHC-31.9* RDW-14.1 RDWSD-47.2* Plt ___
___ 05:50AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.9
___ 06:37AM BLOOD %HbA1c-5.1 eAG-100
___ 06:37AM BLOOD TSH-5.5*
___ 06:37AM BLOOD T4-8.7
___ 06:37AM BLOOD Cortsol-13.2
 
Brief Hospital Course:
PATIENT SUMMARY:
====================
Mr. ___ is a ___ year old man with poorly controlled T2DM c/b 
DPN & cataracts who presented to the ED for evaluation of severe 
hypoglycemia, admitted for insulin titration, and found to be 
persistently hypoglycemic off insulin. He will undergo continued 
workup for autonomous insulin secretion or other causes of his 
hypoglycemia as an outpatient.

ACUTE/ACTIVE ISSUES:
====================
# Type 2 diabetes mellitus
# Severe hypoglycemia with syncope
# Hypoglycemia unawareness
The patient presented following 2 syncopal episodes in the 
setting of recent weight loss and decreased appetite/PO intake. 
Of note, his semaglutide dose was recently increased. 
Hypoglycemia appears long-standing and multifactorial, related 
to recent weight loss, increased insulin sensitivity, and 
decreased PO intake. He was followed in hospital by the diabetes 
specialists at ___. He was taken off all 
forms of insulin and was allowed to eat, yet his blood sugars 
remained in the 60-90's. A fasting test was performed, and 
additional labs were sent. These will take some time to result, 
and will be followed-up by the practitioners at ___. The 
ultimate goal will be for him to have some sort of endocrine 
follow-up at both ___, and in ___, as he 
splits his time between these two locations. At time of 
discharge, he was taking metformin 1000mg bid and no other 
diabetes medications, with plan for close follow up with ___. 
His blood sugars were stable in the range of 90-130. Wife at 
bedside and received diabetes education with patient. They are 
planning to follow up with ___ long term if need be, but it 
is a ___ from where they stay in the summer. 
Reinforced that he should not drive to ___ if having 
hypoglycemic episode. He does not have PCP in the ___. 
Recommended finding someone local where he summers so he has 
someone available in case of emergency.
 
CHRONIC/STABLE ISSUES:
======================
# OSA: continued CPAP overnight

# HTN: continued home lisinopril

# Gout: Dose-reduced home allopurinol for renal function

# Difficult urination: continued home terazosin

TRANSITIONAL ISSUES:
===================
[ ] Will follow up with ___ continued 
workup including ACTH stimulation test. They will also follow-up 
on pending labs (insulin, pro-insulin, c-peptide).
[ ] Stopped Ozempic and Tresiba; plan to restart/modify these 
meds to be determined by coordination between ___ Diabetes 
___ and his endocrinologist, Dr. ___. 
[ ] Current diabetes medications: metformin 1000mg PO BID
[ ] Consider checking zinc, CRP, and copper levels, as he has 
reported a metallic taste in his mouth prior to this admission. 

# CODE: full (presumed)
# CONTACT: ___ (wife/HCP) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Ozempic (semaglutide) 0.25 mg or 0.5 mg(2 mg/1.5 mL) 
subcutaneous 1X/WEEK 
4. Tresiba 108 Units Breakfast
Tresiba 114 Units DinnerMax Dose Override Reason: home regimen
5. Lisinopril 30 mg PO DAILY 
6. Terazosin 2 mg PO QHS 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Lisinopril 30 mg PO DAILY  
4.  MetFORMIN (Glucophage) 1000 mg PO BID  
5.  Terazosin 2 mg PO QHS  
6. HELD- Tresiba 108 Units Breakfast
Tresiba 114 Units DinnerMax Dose Override Reason: home regimen
 This medication was held. Do not restart Insulin until you 
follow up with your endocrinologist.
7. HELD- Ozempic (semaglutide) 0.25 mg or 0.5 mg(2 mg/1.5 mL) 
subcutaneous 1X/WEEK  This medication was held. Do not restart 
___ until you follow up with your endocrinologist.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
FINAL DIAGNOSIS:
===============
Severe Hypoglycemia
Type 2 Diabetes Mellitus

SECONDARY DIAGNOSES:
===================
Obstructive Sleep Apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___ ,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- Your blood sugars were very low.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You were given additional sugar to raise your blood sugars.
- All of your diabetes medications were stopped.
- Even without your normal medications, your blood sugar 
remained low.
- A number of tests were performed, which will help determine 
why your blood sugars were low. These will be followed up by the 
practitioners at ___.   

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.
- If you have very low blood sugars again, it is best to go to 
your local hospital as this could be an emergency, rather than 
driving to ___.   

We wish you all the best!

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___